US07732461B2
3-Chloro-4-[(4-{[(3-oxo-3,4-dihydro-2H-pyrido[3,2-b][1,4]oxazin-6-yl)methyl]amino}-1-piperidinyl)methyl]-4,5-dihydro-7H-pyrrolo[3,2,1-de]-1,5-naphthyridin-7-one Hydrochloride
The free base of the title compound was prepared from 4-[(4-amino-1-piperidinyl)methyl]-3-chloro-4,5-dihydro-7H-pyrrolo[3,2,1-de]-1,5-naphthyridin-7-one (75 mg) and 3-oxo-3,4-dihydro-2H-pyrido[3,2-b][1,4]oxazine-6-carboxaldehyde (for a synthesis see WO2003087098, Example 31(e)) (42 mg) according to the general method of Example 2(h) in 76% yield.

reactant | 4-[(4-amino-1-piperidinyl)methyl]-3-chloro-4,5-dihydro-7H-pyrrolo[3,2,1-de]-1,5-naphthyridin-7-one | 75 mg | NC1CCN(CC1)CC1CN2C=3C1=C(C=NC3C=CC2=O)Cl | C16H19ClN4O
reactant | 3-oxo-3,4-dihydro-2H-pyrido[3,2-b][1,4]oxazine-6-carboxaldehyde | O=C1NC2=C(OC1)C=CC(=N2)C=O | C8H6N2O3
product | 3-Chloro-4-[(4-{[(3-oxo-3,4-dihydro-2H-pyrido[3,2-b][1,4]oxazin-6-yl)methyl]amino}-1-piperidinyl)methyl]-4,5-dihydro-7H-pyrrolo[3,2,1-de]-1,5-naphthyridin-7-one Hydrochloride | 76% yield | Cl.ClC=1C=NC=2C=CC(N3C2C1C(C3)CN3CCC(CC3)NCC=3C=CC=1OCC(NC1N3)=O)=O | InChI=1S/C24H25ClN6O3.ClH/c25-17-10-27-18-2-4-21(33)31-12-14(22(17)23(18)31)11-30-7-5-15(6-8-30)26-9-16-1-3-19-24(28-16)29-20(32)13-34-19;/h1-4,10,14-15,26H,5-9,11-13H2,(H,28,29,32);1H
